US07612067B2
Preparation of N-{5-[8-(1-Ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiazol-2-yl}-N-methanesulfonyl-methylamine
60 mg of N-{5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiazol-2-yl}-methylamine (0.17 mmol) and 86 mg of triethylamine (0.85 mmol) are dissolved in 3.0 ml of CH2Cl2 and 23 mg of methanesulfonyl chloride (0.2 mmol) is added. The vial is capped with a Teflon® lined cap and shaken at room temperature for 2 h. The reaction mixture is concentrated and applied to silica-gel chromatography (Hexane:AcOEt=2:1) to give 53.8 mg of the title compound. Yield 75%. mass spectrum (m/e): 422 (M+1); 1H-NMR (CDCl3): 6.96 (s, 1H), 3.60 (s, 3H), 3.34 (m, 1H), 3.19 (s, 3H), 2.56 (s, 3H), 2.48 (s, 3H), 2.29 (s, 3H), 1.86 (m, 4H), 0.90 (t, 6H, J=7.4 Hz).

reactant | N-{5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiazol-2-yl}-methylamine | 0.17 mmol, 60 mg | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C(S2)NC)C | C18H25N5S
reactant | triethylamine | 0.85 mmol, 86 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.2 mmol, 23 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 3.0 ml | C(Cl)Cl | CH2Cl2
product | N-{5-[8-(1-Ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-methyl-thiazol-2-yl}-N-methanesulfonyl-methylamine | 53.8 mg, Yield 75% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C(S2)N(S(=O)(=O)C)C)C | C19H27N5O2S2
